US09416135B2
To a solution of ethyl 2-(8-(hydroxymethyl)-1-isopropyl-7-(methylsulfonyl)-3,4-dihydropyrazino[1,2-a]indol-2(1H)-yl)-4-(trifluoromethyl)pyrimidine-5-carboxylate (30 mg, 55 μmol) in THF (1 mL) was added 1 N NaOH aqueous solution (1 mL). The resulting mixture was stirred at rt for 3 h. The reaction mixture was acidified with 1N HCl solution (1.5 mL). The mixture was extracted with CH2Cl2 (4×5 mL). The combined organic solution was washed with brine, dried over anhydrous Na2SO4, filtered and concentrated under reduced pressure to provide 2-(8-(hydroxymethyl)-1-isopropyl-7-(methylsulfonyl)-3,4-dihydropyrazino[1,2-a]indol-2(1H)-yl)-4-(trifluoromethyl)pyrimidine-5-carboxylic acid. It was used directly without further purification.

reactant | ethyl 2-(8-(hydroxymethyl)-1-isopropyl-7-(methylsulfonyl)-3,4-dihydropyrazino[1,2-a]indol-2(1H)-yl)-4-(trifluoromethyl)pyrimidine-5-carboxylate | 55 μmol, 30 mg | OCC1=CC=2C=C3N(C2C=C1S(=O)(=O)C)CCN(C3C(C)C)C3=NC=C(C(=N3)C(F)(F)F)C(=O)OCC | C24H27F3N4O5S
reactant | NaOH | 1 N, 1 mL | [OH-].[Na+]
reactant | HCl | 1N, 1.5 mL | Cl | ClH
solvent | THF | 1 mL | C1CCOC1 | C4H8O
product | 2-(8-(hydroxymethyl)-1-isopropyl-7-(methylsulfonyl)-3,4-dihydropyrazino[1,2-a]indol-2(1H)-yl)-4-(trifluoromethyl)pyrimidine-5-carboxylic acid | OCC1=CC=2C=C3N(C2C=C1S(=O)(=O)C)CCN(C3C(C)C)C3=NC=C(C(=N3)C(F)(F)F)C(=O)O | C22H23F3N4O5S
